US06919343B2
A solution of methyl 4′-{(1R)-1-[({1-[(tert-butoxycarbonyl)amino]cyclopropyl}carbonyl)amino]ethyl}-3-fluoro-1,1′-biphenyl-2-carboxylate (466 mg, 1.0 mmol) in DCM (15 mL) and TFA (15 mL) was stirred under N2 for 20 minutes at ambient temperature, then the organic solvent was removed under vacuum. The residue was dissolved in MeOH (20 mL), 4N NaOH (10 mL) and water (10 mL). This mixture was heated at reflux for 4 hours and then neutralized with 6N HCl. Purification was achieved by preparative HPLC on a delta-pack C18 column, 300 Å, pore size 15 μM with 0.05% HCl acid-aqueous acetonitrile solvent systems using various linear gradients. Fractions containing product of 99% purity as measured by HPLC were combined and lyophilized to give 4′-((1R)-1-{[(1-aminocyclopropyl)carbonyl]amino}ethyl)-3-fluoro-1,1′-biphenyl-2-carboxylic acid as a white solid.

reactant | methyl 4′-{(1R)-1-[({1-[(tert-butoxycarbonyl)amino]cyclopropyl}carbonyl)amino]ethyl}-3-fluoro-1,1′-biphenyl-2-carboxylate | 1.0 mmol, 466 mg | C(C)(C)(C)OC(=O)NC1(CC1)C(=O)N[C@H](C)C1=CC=C(C=C1)C=1C(=C(C=CC1)F)C(=O)OC | C25H29FN2O5
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 15 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4′-((1R)-1-{[(1-aminocyclopropyl)carbonyl]amino}ethyl)-3-fluoro-1,1′-biphenyl-2-carboxylic acid | NC1(CC1)C(=O)N[C@H](C)C1=CC=C(C=C1)C=1C(=C(C=CC1)F)C(=O)O | C19H19FN2O3
